US08084448B2
A. 5-(2-Benzyloxy-4-vinylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (2.24 g, 4.1 mmol) in acetonitrile (41 mL), in a pressure vessel, is added tributyl(vinyl)tin (1.43 mL, 4.9 mmol), Pd2(dba)3 (73 mg, 0.16 mmol), and tri-o-tolylphosphine. The vessel is sealed and the mixture is stirred at 80° C. for 18 h. The reaction is allowed to cool to RT, then stirred vigorously with saturated KF (10 mL) for 15 min. The mixture is filtered through Celite, washing several times with acetonitrile. The solvent is removed under reduced pressure and the crude residue is purified via silica gel chromatography using a gradient of 0-40% EtOAc/hexanes to give the title compound as a colorless oil: (M+NH4)+=462.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 4.1 mmol, 2.24 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | tributyl(vinyl)tin | 4.9 mmol, 1.43 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | KF | 10 mL | [F-].[K+]
solvent | acetonitrile | 41 mL | C(C)#N | C2H3N
catalyst | Pd2(dba)3 | 0.16 mmol, 73 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(2-Benzyloxy-4-vinylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=C)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C22H28N2O4SSi
